US07304164B1
Preparation of 1-methyl 2,4,5-trinitroimidazole:
A mixture of potassium salt of trinitroimidazole (100 mg, 0.41 mmol) and dimethylsulfate (1.0 g, excess) was heated in a preheated oil bath at 80° C. for about 2 h. The reaction mixture was diluted with water (50 mL) and extracted with ether (3×25 mL). The combined organic layer was washed with water (3×25 mL), brine (1×25 mL) and dried (Na2SO4). The solvent was evaporated under reduced pressure and the pale yellow syrupy residue thus obtained was purified via Si-gel column chromatography (eluent: 10% ethyl acetate-hexane). The pure product (64 mg, 71%) was obtained as a pale yellow solid. m.p: 84-85° C.; DSC: 84.81° C. (5° C./min); 1H NMR (Acetone-d6): 4.37 ppm; 13C NMR (Acetone-d6): 37.64, 133.46 (t), 136.05 (br) and 139.97 (t).

reactant | potassium | [K] | K
reactant | trinitroimidazole | 0.41 mmol, 100 mg | [N+](=O)([O-])C1=C(N=C(N1)[N+](=O)[O-])[N+](=O)[O-] | C3HN5O6
reactant | dimethylsulfate | 1.0 g | COS(=O)(=O)OC | C2H6O4S
solvent | water | 50 mL | O | H2O
product | 1-methyl 2,4,5-trinitroimidazole | 64 mg, 71% | CN1C(=NC(=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C4H3N5O6
